US06660744B1
A solution of 4-bromo-2-chloroaniline (5.00 g, 0.0242 mol) in tetrahydrofuran (50 mL) was reacted with a 1.0 M solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran (53.2 mL, 0.0532 mol). The mixture was stirred 15 minutes at ambient temperature. Di-tert-butyl dicarbonate (6.34 g, 0.0290 mol) was added and the solution was stirred for 2 hours. The solvent was removed in vacuo, and the crude material was purified by flash column chromatography on silica using heptane/ethyl acetate (4:1). The solvent was removed in vacuo to give tert-butyl N-(4-bromo-2-chlorophenyl)carbamate as a white solid (4.214 g, 0.0137 mol).

reactant | 4-bromo-2-chloroaniline | 0.0242 mol, 5.00 g | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Di-tert-butyl dicarbonate | 0.0290 mol, 6.34 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.0532 mol, 53.2 mL | O1CCCC1 | C4H8O
product | tert-butyl N-(4-bromo-2-chlorophenyl)carbamate | 0.0137 mol, 4.214 g | BrC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)Cl | C11H13BrClNO2
